US07452909B2
4-[1-(6-Methyl-pyridin-2-ylmethyl)-2-methyl-1H-imidazol-4-ylethynyl]-2-chloro-pyridine
The title compound, MS: m/e=323.2 (M+H30), was prepared in accordance with the general method of example 1 from 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and 2-chloromethyl-6-methyl-pyridine hydrochloride.

reactant | 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C11H8ClN3
reactant | 2-chloromethyl-6-methyl-pyridine hydrochloride | Cl.ClCC1=NC(=CC=C1)C
product | 4-[1-(6-Methyl-pyridin-2-ylmethyl)-2-methyl-1H-imidazol-4-ylethynyl]-2-chloro-pyridine | CC1=CC=CC(=N1)CN1C(=NC(=C1)C#CC1=CC(=NC=C1)Cl)C | C18H15ClN4
